US07410972B2
5-Bromo-N-(5-chloro-3-methoxy-2-pyrazinyl)-2-thiophenesulphonamide
Prepared by the method of Example 1 from 5-chloro-3-methoxy-2-pyrazinamine and 5-bromothiophenesulphonyl chloride.

reactant | 5-chloro-3-methoxy-2-pyrazinamine | ClC=1N=C(C(=NC1)N)OC | C5H6ClN3O
reactant | 5-bromothiophenesulphonyl chloride | BrC1=CC=C(S1)S(=O)(=O)Cl | C4H2BrClO2S2
product | 5-Bromo-N-(5-chloro-3-methoxy-2-pyrazinyl)-2-thiophenesulphonamide | BrC1=CC=C(S1)S(=O)(=O)NC1=NC=C(N=C1OC)Cl | C9H7BrClN3O3S2
